US08557872B2
Step 3: Synthesis of 2-ethylamino-N-methoxy-N-methyl-4-trifluoromethyl-benzamide
2-Amino-N-methoxy-N-methyl-4-trifluoromethyl-benzamide (482 mg, 1.94 mmol) was reacted with acetaldehyde (0.12 ml, 2.14 mmol) and sodium acetoxyborohydride (892 mg, 4.20 mmol) in CH2Cl2 at room temperature as described above to yield title compound (95 mg, 17%).

reactant | 2-Amino-N-methoxy-N-methyl-4-trifluoromethyl-benzamide | 1.94 mmol, 482 mg | NC1=C(C(=O)N(C)OC)C=CC(=C1)C(F)(F)F | C10H11F3N2O2
reactant | acetaldehyde | 2.14 mmol, 0.12 ml | C(C)=O | C2H4O
reactant | sodium acetoxyborohydride | 4.20 mmol, 892 mg | C(C)(=O)O[BH3-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-ethylamino-N-methoxy-N-methyl-4-trifluoromethyl-benzamide | 95 mg, 17% | C(C)NC1=C(C(=O)N(C)OC)C=CC(=C1)C(F)(F)F | C12H15F3N2O2
